US04552586
2.22 g of 3,5-dichloro-2-pyridyloxy acetic acid was suspended in 30 ml of toluene, and 2.06 g of N,N'-dicyclohexylcarbodiimide was added. The mixture was stirred for 15 minutes. To this solution, 0.93 g of aniline dissolved in 5 ml of toluene was added dropwise. The reaction was slightly exothermic, and stirring is continued at room temperature for 2 hours. The reaction mixture was then filtered. After removing the toluene from the filtrate by distillation under reduced pressure, the residue was washed with a small amount of ethanol to give 2.52 g of 3,5-dichloro-2-pyridyloxyacetanilide (Yield 85%), m.p. 164.5°~166° C.

reactant | 3,5-dichloro-2-pyridyloxy acetic acid | 2.22 g | ClC=1C(=NC=C(C1)Cl)OCC(=O)O | C7H5Cl2NO3
reactant | N,N'-dicyclohexylcarbodiimide | 2.06 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | aniline | 0.93 g | NC1=CC=CC=C1 | C6H7N
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | 3,5-dichloro-2-pyridyloxyacetanilide | 2.52 g, Yield 85% | ClC=1C(=NC=C(C1)Cl)OCC(=O)NC1=CC=CC=C1 | C13H10Cl2N2O2
